US04160094
2-Ethyl-8-lithio-5,6,7,8-tetrahydroquinoline
By the method described in Example 7 using n-butyl lithium solution (9% w/v, 10 ml, 0.014 mol), and 2-ethyl-5,6,7,8-tetrahydroquinoline (2.3 g, 0.014 mol) and title compound is prepared and converted in situ to methyl 2-ethyl-5,6,7,8-tetrahydroquinoline-8-carboxylate which was converted to the corresponding 8-thioamide by the procedure described in U.S. Ser. No. 460,265.

reactant | n-butyl lithium | 0.014 mol, 10 ml | C(CCC)[Li]
reactant | 2-ethyl-5,6,7,8-tetrahydroquinoline | 0.014 mol, 2.3 g | C(C)C1=NC=2CCCCC2C=C1 | C11H15N
product | 2-Ethyl-8-lithio-5,6,7,8-tetrahydroquinoline | C(C)C1=NC=2C(CCCC2C=C1)[Li] | InChI=1S/C11H14N.Li/c1-2-10-8-7-9-5-3-4-6-11(9)12-10;/h6-8H,2-5H2,1H3;
